.SUBCKT CTLE vinp vinn voutp voutn

R1 gnd! voutp RD
M1 voutp vinp vs1 0 M1
I1 vs1 gnd! I1
R2 vs1 vs2 RS
C1 vs1 vs2 CS
R3 gnd! voutn RD
I2 vs2 gnd! I1
M2 voutn vinn vs2 0 M2

.ENDS